US07838675B2
N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-4-methyl-piperazine-1-sulfonamide
To a solution of N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-1-methyl-2-(trityloxy)ethoxy]pyrimidin-4-yl}-4-methylpiperazine-1-sulfonamide (the product from step ii) (100 mg) in DCM (3 ml) was added TFA (3 ml) dropwise. The reaction was then allowed to stir at room temperature for the following 3 h until complete. The reaction was then reduced in vacuo and the resulting residue was purified by preparative HPLC to yield the title compound as a white solid. Yield: 45 mg

reactant | N-{2-[(2,3-difluorobenzyl)thio]-6-[(1R)-1-methyl-2-(trityloxy)ethoxy]pyrimidin-4-yl}-4-methylpiperazine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCN(CC2)C)O[C@@H](COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C)C=CC=C1F | C38H39F2N5O4S2
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-4-methyl-piperazine-1-sulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCN(CC1)C)O[C@@H](CO)C | C19H25F2N5O4S2
